US09328124B2
tert-Butyl N-allyl-N-[2-(5-fluoro-2-pyridyl)-2-hydroxyimino-ethyl]carbamate
2-Bromo-5-fluoro-pyridine (6.475 g, 36.79 mmol) in tetrahydrofuran (20 mL) is added drop wise to isopropylmagnesium chloride (20 mL, 40.00 mmol of a 2 M solution in tetrahydrofuran) with stirring under nitrogen at room temperature. The resulting reaction mixture is stirred at room temperature for 2 hours. tert-Butyl N-allyl-N-[2-[methoxy(methyl)amino]-2-oxo-ethyl]carbamate (4.43 g, 17.15 mmol) in tetrahydrofuran (15 mL) is then added drop wise at room temperature and the resulting mixture is stirred at room temperature for 4 hours 30 minutes. The reaction is quenched by the addition of aqueous ammonium chloride solution followed by ethyl acetate. The layers are separated and the aqueous phase is re-extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure. The resulting dark oil is taken up in ethanol (60 mL) with stirring. A 50 wt % aqueous solution of hydroxylamine (3 mL, 55.09 mmol) is added and the resulting solution is heated at 60° C. over the weekend. The reaction is then cooled to room temperature and is concentrated under reduced pressure. The crude product is purified by silica gel chromatography using a 0-35% gradient of isohexanes in ethyl acetate to give the title compound as a mixture of E/Z isomers (4.9 g, 92%). ES/MS (m/e): 310 (M+1).

reactant | 2-Bromo-5-fluoro-pyridine | 36.79 mmol, 6.475 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tert-Butyl N-allyl-N-[2-[methoxy(methyl)amino]-2-oxo-ethyl]carbamate | 17.15 mmol, 4.43 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)N(C)OC | C12H22N2O4
reactant | hydroxylamine | 55.09 mmol, 3 mL | NO | H3NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-allyl-N-[2-(5-fluoro-2-pyridyl)-2-hydroxyimino-ethyl]carbamate | C(C=C)N(C(OC(C)(C)C)=O)CC(=NO)C1=NC=C(C=C1)F | C15H20FN3O3
